US07314886B2
54.D. Synthesis of 5-Bromo-7-isopropyl-1H-indole
To a stirred solution of 5-bromo-7-isopropylindoline-2,3-dione (45.1 g, 0.17 mol) in THF (275 ml) at room temperature under a nitrogen atmosphere, was added, via syringe, 2.0 M solution of LiBH4/THF (215 ml) over 30 min. The reaction mixture was stirred at 90° C. for 1 hr, cooled, quenched with distilled water and 5% HCl, and extracted with EtOAc. The extracts were washed with brine, dried over MgSO4, and concentrated under reduced pressure. The crude product was purified by elution from a silica gel column with hexane/EtOAc (9:1) to give (14.5 g, 36%) ofthe product. 1H NMR (300 MHz, CDCl3) δ 8.18 (b, NH), 7.62 (d, 1H), 7.21 (t, 1H), 7.16 (d, 1H), 6.51 (dd, 1H), 3.20 (m, 1H), 1.38 (d, 6H); ESI (+) MS m/e=239 (MH+), ESI (−) MS m/e=237 (MH−).

reactant | 5-bromo-7-isopropylindoline-2,3-dione | 0.17 mol, 45.1 g | BrC=1C=C2C(C(NC2=C(C1)C(C)C)=O)=O | C11H10BrNO2
reactant | LiBH4 THF | 215 ml | [Li+].[BH4-].C1CCOC1
solvent | THF | 275 ml | C1CCOC1 | C4H8O
product | 5-Bromo-7-isopropyl-1H-indole | BrC=1C=C2C=CNC2=C(C1)C(C)C | C11H12BrN
